US08071592B2
(b) 1-{2-[(3R,4S)-4-amino-3-hydroxy-1-piperidinyl]ethyl}-7-(methyloxy)-1,5-naphthyridin-2(1H)-one Dihydrochloride
1,1-dimethylethyl ((3R,4S)-3-hydroxy-1-{2-[7-(methyloxy)-2-oxo-1,5-naphthyridin-1 (2H)-yl]ethyl}-4-piperidinyl)carbamate (258 mg, 0.6165 mmol) was dissolved in DCM (10 mL) and the solution was treated with 4M hydrogen chloride in 1,4-dioxane (2 ml). Effervescence and formation of a precipitate was observed. After 2 h, the solvents were removed under reduced pressure and the residue was dried under reduced pressure overnight, to give the title compound as a pale pink solid (223 mg).

reactant | 1,1-dimethylethyl ((3R,4S)-3-hydroxy-1-{2-[7-(methyloxy)-2-oxo-1,5-naphthyridin-1 (2H)-yl]ethyl}-4-piperidinyl)carbamate | 0.6165 mmol, 258 mg | O[C@@H]1CN(CC[C@@H]1NC(OC(C)(C)C)=O)CCN1C(C=CC2=NC=C(C=C12)OC)=O | C21H30N4O5
reactant | hydrogen chloride | 4M | Cl | ClH
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | 1,4-dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | 1-{2-[(3R,4S)-4-amino-3-hydroxy-1-piperidinyl]ethyl}-7-(methyloxy)-1,5-naphthyridin-2(1H)-one Dihydrochloride | 223 mg | Cl.Cl.N[C@@H]1[C@@H](CN(CC1)CCN1C(C=CC2=NC=C(C=C12)OC)=O)O | InChI=1S/C16H22N4O3.2ClH/c1-23-11-8-14-13(18-9-11)2-3-16(22)20(14)7-6-19-5-4-12(17)15(21)10-19;;/h2-3,8-9,12,15,21H,4-7,10,17H2,1H3;2*1H/t12-,15+;;/m0../s1
